US06927228B2
(b) tert-Butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate
In a manner similar to that of Example 1(f), by reacting 8 g (25 mmol) of tert-butyl (4′-formyl-biphenyl-3-ylmethyl)methylcarbamate with 2.9 g (25 mmol) of 2,4-thiazolidine dione, 8.6 g (81%) of the expected product are obtained.

reactant | tert-butyl (4′-formyl-biphenyl-3-ylmethyl)methylcarbamate | 25 mmol, 8 g | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C20H23NO3
reactant | 2,4-thiazolidine dione | 25 mmol, 2.9 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | tert-Butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate | 8.6 g, 81% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H24N2O4S
